US08058299B2
To a mixture of 2-chloro-5-nitropyridine (476 mg, 3.0 mmol) and 4-piperidine acetic acid methyl ester (471 mg, 3.0 mmol) in tetrahydrofuran (10 mL) was added diisopropylethylamine (1.0 mL, 5.74 mmol). The mixture was heated in a microwave at 120° C. for 30 minutes. The mixture was evaporated to dryness and extracted with ethyl acetate and water. The organic layer was dried over sodium sulfate and solvents were evaporated. The residue was purified using flash chromatography (eluting with ethyl acetate and hexanes) to give (5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-acetic acid methyl ester as a yellow solid. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 2-chloro-5-nitropyridine | 3.0 mmol, 476 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | 4-piperidine acetic acid methyl ester | 3.0 mmol, 471 mg | COC(CC1CCNCC1)=O | C8H15NO2
reactant | diisopropylethylamine | 5.74 mmol, 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (5′-nitro-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)-acetic acid methyl ester | COC(CC1CCN(CC1)C1=NC=C(C=C1)[N+](=O)[O-])=O | C13H17N3O4
